US04727081
N-[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamin
The compound is prepared by a method analogous to that of Example 51 from 3-[3-[(dimethylamino)methyl]phenoxy]-1-propanamine and 5-bromo-1,3,4-thiadiazole-2amine.

reactant | 3-[3-[(dimethylamino)methyl]phenoxy]-1-propanamine | CN(C)CC=1C=C(OCCCN)C=CC1 | C12H20N2O
reactant | 5-bromo-1,3,4-thiadiazole-2amine | BrC1=NN=C(S1)N | C2H2BrN3S
product | N-[3-[3-[(Dimethylamino)methyl]phenoxy]propyl]-1,3,4-thiadiazole-2,5-diamin | CN(C)CC=1C=C(OCCCNC=2SC(=NN2)N)C=CC1 | C14H21N5OS
